US05288743
To a solution of diisopropylamine (126.5 g; 1.25 mol) in 1500 mL THF at -78° C. was added n-butyllithium (500 mL of a 2.5M solution in hexanes). Upon completion of addition, the mixture was stirred for 30 minutes. A solution of ethyl isobutyrate (132 g; 1.14 mol) in 300 mL THF was added slowly over about 1 hour. The reaction was then allowed to stir for an additional hour at -78° C. 2,3-Dichloro-1-propene (138.7 g; 1.25 mol) was added dropwise. The cooling bath was removed and the reaction was stirred at ambient temperature for 15 hours. Saturated aqueous ammonium chloride solution was added and the THF was removed in vacuo. The aqueous residue was then extracted with ethyl acetate. The extracts were dried over magnesium sulfate and concentrated. Distillation yielded ethyl 4-chloro-2,2-dimethyl-4-pentenoate as a colorless liquid (b.p. 100°-104° C./30 torr).

reactant | diisopropylamine | 1.25 mol, 126.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl isobutyrate | 1.14 mol, 132 g | C(C(C)C)(=O)OCC | C6H12O2
reactant | 2,3-Dichloro-1-propene | 1.25 mol, 138.7 g | ClC(=C)CCl | C3H4Cl2
solvent | THF | 1500 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | ethyl 4-chloro-2,2-dimethyl-4-pentenoate | ClC(CC(C(=O)OCC)(C)C)=C | C9H15ClO2
